### PR TITLE
Erdős Problem 889

### LINKED ISSUE #1006: Erdős Problem 889
### What is the conjecture

https://www.erdosproblems.com/889

  Let $v(n,k)$ count the prime factors of $n+k$ which do not divide $n+i$ for $0\leq i<k$. Is it true that
$$v_0(n)=\max_{k\geq 0}v(n,k)\to \infty$$
as $n\to \infty$?

Status:  open

### PR DESCRIPTION
**Pull request by Mal-Pat**
This adds a formalization of Erdős Problem 889, along with 4 variants taken from [ErSe67].

[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.

Let me know if any improvements or corrections need to be made.

Closes #1006

### CODE REVIEW

File: FormalConjectures/ErdosProblems/889.lean [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+
+
+/--
+$v_0(n) > 1$ for all $n$ except $n$ = 0, 1, 2, 3, 4, 7, 8, 16
+
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research solved, AMS 11]
+theorem erdos_889.variants.v0_gt_1 :
+  ∀ n : ℕ, n ∉ ({0,1,3,4,7,8,16} : Finset ℕ) → 1 < v₀ n := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: `2` is missing here, plus some spaces for better styling
```suggestion
  ∀ n : ℕ, n ∉ ({0, 1, 2, 3, 4, 7, 8, 16} : Finset ℕ) → 1 < v₀ n := by
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research open, AMS 11]
+theorem erdos_889.variants.v1_eq_1_finite :
+  {n | v_l 1 n = 1}.Finite ↔ answer(sorry) := by
+  sorry
+
+
+
+/--
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: nit: reducing some blank lines
```suggestion
  {n | v_l 1 n = 1}.Finite ↔ answer(sorry) := by
  sorry

/--
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 3]
```diff
@@ -0,0 +1,121 @@
...
+Does $V_1(n) = 1$ have finite solutions?
+
+This is a modification of `erdos_889.variants.v1_eq_1_finite`,
+which might make it more amenable to attack according to [ErSe67].
+
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research open, AMS 11]
+theorem erdos_889.variants.V1_eq_1_finite :
+  {n | V_l 1 n = 1}.Finite ↔ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: nit: statements should be indented 4 spaces
```suggestion
    {n | V_l 1 n = 1}.Finite ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 4]
```diff
@@ -0,0 +1,121 @@
...
+  sorry
+
+/--
+Does $v_1(n) = 1$ have finite solutions?
+
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research open, AMS 11]
+theorem erdos_889.variants.v1_eq_1_finite :
+  {n | v_l 1 n = 1}.Finite ↔ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: nit: statements should be indented 4 spaces 
```suggestion
    {n | v_l 1 n = 1}.Finite ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 5]
```diff
@@ -0,0 +1,121 @@
...
+
+/--
+Let $v_l(n) = \max_{k\geq l} v(n,k)$. For every fixed $l$,
+$v_l(n) \to \infty$ as $n \to \infty$
+
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research open, AMS 11]
+theorem erdos_889.variants.general :
+  ∀ l, Tendsto (v_l l) atTop atTop := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: nit: statements should be indented 4 spaces 
```suggestion
    ∀ l, Tendsto (v_l l) atTop atTop := by
```

File: FormalConjectures/ErdosProblems/889.lean (hunk 1 above)
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]:
```suggestion
    ∀ n : ℕ, n ∉ ({0,1,3,4,7,8,16} : Finset ℕ) → 1 < v₀ n := by
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 6]
```diff
@@ -0,0 +1,121 @@
...
+@[category research open, AMS 11]
+theorem erdos_889.variants.v1_eq_1_finite :
+  {n | v_l 1 n = 1}.Finite ↔ answer(sorry) := by
+  sorry
+
+
+
+/--
+$V(n,k)$ is the number of primes $p$ such that
+$p^\alpha$ exactly divides $n+k$ and
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean:91]: I assume here `\alpha` is meant to be `v_p(n + k)`? Could you please clarify this in the docstring

**Review by smmercuri — CHANGES_REQUESTED** [review]
Thanks for your contribution! Looks good, just some minor comments

File: FormalConjectures/ErdosProblems/889.lean (hunk 6 above)
Comment (Mal-Pat) [reply FormalConjectures/ErdosProblems/889.lean:91]: `\alpha` is the multiplicity of `p` in the factorization of `n + k` (it's defined as `p^\alpha || n + k` in [ErSe67]).

**Comment by Mal-Pat** [comment]
Made the requested changes.

Does the 4-space indent apply only at theorem statements or everywhere?

File: FormalConjectures/ErdosProblems/889.lean [hunk 7]
```diff
@@ -0,0 +1,118 @@
...
+noncomputable def v₀ (n : ℕ) : ℕ∞ :=
+  ⨆ k, (v n k : ℕ∞)
+
+/--
+Let $v(n,k)$ count the prime factors of $n+k$ which
+do not divide $n+i$ for $0\leq i < k$. Is it true that
+$v_0(n)=\max_{k\geq 0}v(n,k)\to \infty$ as $n\to \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_889 : Tendsto v₀ atTop atTop := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]: There's a subtle issue here. Following the domain of `v₀`, the second `atTop` is a filter in `ℕ∞`, which already has a top element (in contrast to `ℕ`). `atTop` represents the filter that is above any element, so when you assert `Tendsto v₀ atTop atTop` you are asserting that the function eventually becomes bigger than any element. Since `⊤` exists then this this is asserting that `v₀` is eventually equal to  `⊤`, which is a stronger statement than that it tends to `⊤`. You should use `(𝓝 ⊤)` instead (you'll need to `open scoped Topology` to use the notation)
```suggestion
theorem erdos_889 : Tendsto v₀ atTop (𝓝 ⊤) := by
```

File: FormalConjectures/ErdosProblems/889.lean [hunk 8]
```diff
@@ -0,0 +1,118 @@
...
+
+/--
+Let $v_l(n) = \max_{k\geq l} v(n,k)$. For every fixed $l$,
+$v_l(n) \to \infty$ as $n \to \infty$
+
+[ErSe67] Erdős, P. and Selfridge, J. L., Some problems on the prime factors of consecutive integers. Illinois J. Math. (1967), 428--430.
+-/
+@[category research open, AMS 11]
+theorem erdos_889.variants.general :
+    ∀ l, Tendsto (v_l l) atTop atTop := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/889.lean]:
```suggestion
    ∀ l, Tendsto (v_l l) atTop (𝓝 ⊤) := by
```

**Review by smmercuri — CHANGES_REQUESTED** [review]
Only theorem statements should be indented 4 spaces (if on a new line). Bodies of proofs and definitions should be indented 2 spaces, you can find more info on [the style guide](https://leanprover-community.github.io/contribute/style.html) (particularly the "Structuring definitions and theorems" sections)

**Comment by Mal-Pat** [comment]
Thanks for pointing out the issue - added the requested changes.
